US06492364B1
Dimethyl 2-ketoglutarate (3.75 g) and o-phenylenediamine (2.5 g) were dissolved in methanol (30 ml), and the mixture was stirred overnight. The precipitated crystals were recovered by filtration and washed with water and methanol to obtain 5.06 g of methyl 3-(3-hydroxyquinoxaline-2-yl)propanoate Yield: 94%.

reactant | Dimethyl 2-ketoglutarate | 3.75 g | O=C(C(=O)OC)CCC(=O)OC | C7H10O5
reactant | o-phenylenediamine | 2.5 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | methanol | 30 ml | CO | CH4O
product | methyl 3-(3-hydroxyquinoxaline-2-yl)propanoate | 5.06 g, Yield: 94% | OC=1C(=NC2=CC=CC=C2N1)CCC(=O)OC | C12H12N2O3
